US06984646B2
4-(4-Methylbenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one
The compound is prepared as described in example 25 with 500 mg (1.49 mmol) of 1-(4-methylphenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone hydrochloride (example IL), 160.7 mg (2.98 mmol) of sodium methylate and 125 mg (1.49 mmol) methyl propiolate.

reactant | 1-(4-methylphenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone hydrochloride | 1.49 mmol, 500 mg | Cl.CC1=CC=C(C=C1)C(CC1=NC2=C(N1)CCCC2)=O
reactant | sodium methylate | 2.98 mmol, 160.7 mg | C[O-].[Na+]
reactant | methyl propiolate | 1.49 mmol, 125 mg | C(C#C)(=O)OC | C4H4O2
product | 4-(4-Methylbenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one | CC1=CC=C(C(=O)C=2C=CC(N3C2NC2=C3CCCC2)=O)C=C1 | C19H18N2O2
